US09340547B2
a) (S)-tert-Butyl 1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)butan-2-ylcarbamate
2.0 g (9.94 mmol) of 1-amino-N-phenyl-1H-pyrrole-2-carboxamide, 2.45 g (12.05 mmol) of (S)-2-(tert-butoxycarbonylamino)butanoic acid (purchased from Aldrich®, cat. no. 15533) and 1.90 g (12.24 mmol) of EDC.HCl were dissolved in a mixture of 90 mL of THF and 30 mL of dichloromethane. The resulting solution was heated at 55° C. overnight. Then the solvents were evaporated and the crude residue was taken up in dichloromethane and washed with an aqueous solution of sodium bicarbonate and brine. The organic layer was dried over magnesium sulphate, filtered and the solvent was evaporated. The solid obtained was triturated in diethyl ether to furnish 2.47 g (64% yield) of the title compound.

reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | 9.94 mmol, 2.0 g | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | (S)-2-(tert-butoxycarbonylamino)butanoic acid | 12.05 mmol, 2.45 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | EDC.HCl | 12.24 mmol, 1.90 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-tert-Butyl 1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)butan-2-ylcarbamate | 2.47 g, 64% yield | O=C([C@H](CC)NC(OC(C)(C)C)=O)NN1C(=CC=C1)C(NC1=CC=CC=C1)=O | C20H26N4O4
